US08314098B2
(Step 2): N-(3-methyl-benzylidene)-N′-[7-morpholin-4-yl-2-(6-morpholin-4-yl-pyridin-3-yl)-pyrazolo[1,5-a]pyrimidin-5-yl]-hydrazine (Compound 85)
There was suspended, in 1,4-dioxane (3 mL), 5-chloro-7-morpholin-4-yl-2-(6-morpholin-4-yl-pyridin-3-yl)-pyrazolo[1,5-a]pyrimidine (28.9 mg, 0.0720 mM) and then hydrazine monohydrate (34.8 μL, 0.720 mM) was added to the suspension. After stirring this suspension at 60° C. overnight, it was stirred at 150° C. for 10 minutes under the irradiation with microwaves. Hydrazine monohydrate (40 μL, 0.82 mM) was added to this reaction liquid and then it was stirred at 150° C. for 15 minutes under the irradiation with microwaves. This reaction liquid was diluted with a saturated aqueous common salt solution and then extracted with ethyl acetate. The resulting extracts were combined, dried over anhydrous sodium sulfate and the solvent was distilled off. The resulting residue was suspended in ethanol (2 mL), then acetic acid (5.0 μL, 0.087 mM) and 3-methyl-benzaldehyde (8.5 μL, 0.072 mM) were added to the suspension and the mixture was stirred at room temperature for one hour. The solvent was distilled off from the reaction mixture, the resulting residue was purified by the reversed phase HPLC and then subjected to a desalting operation to thus give the title compound (14.3 mg, overall yield of these two steps: 40%).

reactant | 5-chloro-7-morpholin-4-yl-2-(6-morpholin-4-yl-pyridin-3-yl)-pyrazolo[1,5-a]pyrimidine | 0.0720 mM, 28.9 mg | ClC1=NC=2N(C(=C1)N1CCOCC1)N=C(C2)C=2C=NC(=CC2)N2CCOCC2 | C19H21ClN6O2
reactant | hydrazine monohydrate | 0.720 mM, 34.8 μL | O.NN
reactant | Hydrazine monohydrate | 0.82 mM, 40 μL | O.NN
reactant | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | N-(3-methyl-benzylidene)-N′-[7-morpholin-4-yl-2-(6-morpholin-4-yl-pyridin-3-yl)-pyrazolo[1,5-a]pyrimidin-5-yl]-hydrazine | CC=1C=C(C=NNC2=NC=3N(C(=C2)N2CCOCC2)N=C(C3)C=3C=NC(=CC3)N3CCOCC3)C=CC1 | C27H30N8O2
